US05449785
Trimethylsulfoxonium iodide (74 mg) was added to a suspension of sodium hydride (14 mg, 60% oil suspension) in dry dimethylsulfamide (1 ml) . The mixture was stirred for 1 hr at room temperature. A solution of (2S,4S,5S)-4-methoxy-5-methyl-2-[(E)-1-nonenyl]tetrahydro-2H-pyran-3-one (30 mg) in dry tetrahydrofuran (0.2 ml) was added dropwise. After stirring for 2 hrs at room temperature, the reaction was quenched by addition of saturated aqueous ammonium chloride solution. The mixture was extracted with diethyl ether, and the combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Purification of the residue by preparative thin layer chromatography (n-hexane: ethyl acetate=10:1) gave (3S,4S,7S,8S)-8-methoxy-7-methyl-4-[(E)-1-nonenyl]-1,5-dioxaspiro[2,5]octane (23 mg, 72% yield) as colorless oil; EI-MS: m/z 282 (M+); 1H-NMR (CDCl3)d: 0.87 (3 H,t,J=7 Hz), 1.10 (1H,d,J=7 Hz), 1.2~1.4 (10H,m), 2.0 (2H,m), 2.2 (1H,m), 2.43 (1H,d,J=5 Hz), 2.80 (1H,d,J=5 Hz), 3.37 (3H,s), 3.52 (1H,d,J=3 Hz), 3.66 (1H,dd,J=3 & 12 Hz), 3.90 (1H,dd,J=4 & 12 Hz), 3.94 (1H,d,J=8 Hz), 5.56 (1H,dd,J=8 & 15 Hz), 5.71 (1H,m).

reactant | Trimethylsulfoxonium iodide | 74 mg | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 14 mg | [H-].[Na+]
reactant | (2S,4S,5S)-4-methoxy-5-methyl-2-[(E)-1-nonenyl]tetrahydro-2H-pyran-3-one | 30 mg | CO[C@@H]1C([C@@H](OC[C@@H]1C)\C=C\CCCCCCC)=O | C16H28O3
solvent | dimethylsulfamide | 1 ml | CNS(=O)(=O)NC | C2H8N2O2S
solvent | tetrahydrofuran | 0.2 ml | O1CCCC1 | C4H8O
product | (3S,4S,7S,8S)-8-methoxy-7-methyl-4-[(E)-1-nonenyl]-1,5-dioxaspiro[2,5]octane | 23 mg, 72% yield | CO[C@H]1[C@H](CO[C@H]([C@]12CO2)\C=C\CCCCCCC)C | C17H30O3
